US07572809B2
Similar procedure as described in the example 369d was used, starting from Methanesulfonic acid 3-(1-methanesulfonyl-5-methyl-1H-pyrazol-3-ylamino)-6-methoxy-isoquinolin-1-ylmethyl ester and Oxazolidin-2-one to give 5 mg of 3-[6-Methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ylmethyl]-oxazolidin-2-one as a yellow solid. LC-MS m/e 354 (MH+).

reactant | Methanesulfonic acid 3-(1-methanesulfonyl-5-methyl-1H-pyrazol-3-ylamino)-6-methoxy-isoquinolin-1-ylmethyl ester | CS(=O)(=O)N1N=C(C=C1C)NC=1N=C(C2=CC=C(C=C2C1)OC)COS(=O)(=O)C | C17H20N4O6S2
reactant | Oxazolidin-2-one | O1C(NCC1)=O | C3H5NO2
product | 3-[6-Methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ylmethyl]-oxazolidin-2-one | 5 mg | COC=1C=C2C=C(N=C(C2=CC1)CN1C(OCC1)=O)NC1=NNC(=C1)C | C18H19N5O3
